US06235928B1
Step 2 Preparation of N-hydroxy-2-[(4chlorobenzenesulfonyl)methyl]-3-(4-chlorobenzenesulfonyl)-propionamide.
A mixture of 2-(4-chlorobenzenesulfonylmethyl)-3-(4-chlorobenzenesulfonyl)-propionic acid (0.52 g, 1.1 mmol), 1-hydroxybenzotriazole hydrate (0.16 g, 1.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiinde hydrochloride (0.25 g, 1.3 mmol), and hydroxylamine hydrochloride (0.083 g, 1.2 mmol) is stirred in an ice bath for 20 minutes and 4-methylmorpholine (0.28 mL, 2.5 mmol) in dimethylformamide (10 mL) is added. After stirring overnight at ambient temperature, the mixture is partitioned between ethyl acetate and aqueous 10% hydrochloric acid. The organic phase is further extracted with aqueous acid, aqueous sodium bicarbonate, brine, dried over anhydrous sodium sulfate, concentrated in vacuo. The concentrate is chromatographed over silica gel (230-400 mesh) with chloroform/acetone/acetic acid (79/20/1) and the eluate concentrated in vacuo, to yield the title compound as a white solid.

reactant | 2-(4-chlorobenzenesulfonylmethyl)-3-(4-chlorobenzenesulfonyl)-propionic acid | 1.1 mmol, 0.52 g | ClC1=CC=C(C=C1)S(=O)(=O)CC(C(=O)O)CS(=O)(=O)C1=CC=C(C=C1)Cl | C16H14Cl2O6S2
reactant | 1-hydroxybenzotriazole hydrate | 1.2 mmol, 0.16 g | O.ON1N=NC2=C1C=CC=C2
reactant | hydroxylamine hydrochloride | 1.2 mmol, 0.083 g | Cl.NO
reactant | 4-methylmorpholine | 2.5 mmol, 0.28 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-hydroxy-2-[(4chlorobenzenesulfonyl)methyl]-3-(4-chlorobenzenesulfonyl)-propionamide | ONC(C(CS(=O)(=O)C1=CC=C(C=C1)Cl)CS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C16H15Cl2NO6S2
